US07713982B2
a) 3-butyl-7-(phenylmethyl)-3,7-dihydro-1H-purine-2,6-dione
7-benzyl-3,7-dihydro-1H-purine-2,6-dione (17.14 g, 70.8 mmol) [Synthetic Communications, 20(16), 2459-2467, 1990] and potassium carbonate (11.43 g, 82.8 mmol) were suspended in DMF (400 mL) at 40° C. After stirring for thirty minutes, butyl iodide (8.76 mL, 77.0 mmol) was added, and the mixture was stirred at 40° C. overnight. 50% Aqueous acetic acid (60 mL) was added, and the solution was concentrated under reduced pressure. The residue was suspended in water (500 mL), and the products were extracted into chloroform. The organics were collected, concentrated, and product was isolated using flash chromatography eluting with 1% methanol in dichloromethane to provide the product (9.49 g, 45%); 1H NMR (400 MHz; CDCl3) δ: 0.95 (3H, t), 1.34-1.41 (2H, m), 1.70-1.78 (2H, m), 4.05 (2H, t), 5.46 (2H, s), 7.31-7.40 (5H, m), 7.56 (1H, s), 8.21 (1H, br.s); m/z 299[MH+].

reactant | 7-benzyl-3,7-dihydro-1H-purine-2,6-dione | 70.8 mmol, 17.14 g | C(C1=CC=CC=C1)N1C=NC=2NC(NC(C12)=O)=O | C12H10N4O2
reactant | potassium carbonate | 82.8 mmol, 11.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | butyl iodide | 77.0 mmol, 8.76 mL | C(CCC)I | C4H9I
reactant | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
product | 3-butyl-7-(phenylmethyl)-3,7-dihydro-1H-purine-2,6-dione | 9.49 g, 45% | C(CCC)N1C(NC(C=2N(C=NC12)CC1=CC=CC=C1)=O)=O | C16H18N4O2
